US05254655
2-anilinoethanol (13.7 g, 0.10 mol) is treated with allyl bromide (18.15 g, 0.15 mol), in the manner as set forth in Example 3, to provide N-allyl-N-(2-hydroxyethyl)benzenamine.

reactant | 2-anilinoethanol | 0.10 mol, 13.7 g | N(C1=CC=CC=C1)CCO | C8H11NO
reactant | allyl bromide | 0.15 mol, 18.15 g | C(C=C)Br | C3H5Br
product | N-allyl-N-(2-hydroxyethyl)benzenamine | C(C=C)N(C1=CC=CC=C1)CCO | C11H15NO
